US05705519
6-methyl-1H-indole-3-ethanamine
A sample of 6-methyl-7-bromo-1H-indole-3-ethanamine was contacted with Pd/C H2 in the presence of ethanol and triethylamine. The resulting material was evaporated and partitioned between base/CHCl3. The organic phase was dried, concentrated, and dried. The resulting material was taken up into methanol and added to ethereal HCl. The resulting material was washed and vacuum dried.

reactant | 6-methyl-7-bromo-1H-indole-3-ethanamine | CC1=CC=C2C(=CNC2=C1Br)CCN | C11H13BrN2
reactant | ethanol | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-methyl-1H-indole-3-ethanamine | CC1=CC=C2C(=CNC2=C1)CCN | C11H14N2
